US04687857
Using the procedure of Step A of Example 4, 7.7 g of ethyl 3-(2-thiazolylamino)-3-oxo-propanoate and 10.55 g of 2-(1-chloro-2,2-dimethylpropyl)-8-trifluoromethyl-4H-3,1-benzoxazine-4-one [prepared according to the process described in the European Pat. No. 0040573] were reacted to obtain 15.6 g of ethyl 2-[(2-chloro-1-oxo-3,3-dimethylbutyl)-amino]-β-oxo-α-[(2-thiazolylamino)-carbonyl]-3-(trifluoromethyl)-benzene-propanoate melting at 180° C.

reactant | ethyl 3-(2-thiazolylamino)-3-oxo-propanoate | 7.7 g | S1C(=NC=C1)NC(CC(=O)OCC)=O | C8H10N2O3S
reactant | 2-(1-chloro-2,2-dimethylpropyl)-8-trifluoromethyl-4H-3,1-benzoxazine-4-one | 10.55 g | ClC(C(C)(C)C)C1=NC2=C(C(O1)=O)C=CC=C2C(F)(F)F | C14H13ClF3NO2
product | ethyl 2-[(2-chloro-1-oxo-3,3-dimethylbutyl)-amino]-β-oxo-α-[(2-thiazolylamino)-carbonyl]-3-(trifluoromethyl)-benzene-propanoate | 15.6 g | ClC(C(=O)NC1=C(C=CC=C1C(F)(F)F)C(C(C(=O)OCC)C(=O)NC=1SC=CN1)=O)C(C)(C)C | C22H23ClF3N3O5S
